US06579875B1
1,2-Dibromoethane (0.03 ml, 10 mol %) was added to a stirred suspension of acid washed zinc dust (0.45 g, 7.0 mmol) in anhydrous DMF (3 ml) at 50° C. under nitrogen. After 5 min, neopentyl iodide (1.0 ml, 7.5 mmol) was added. The mixture was stirred for 2.5 h to give a grey-green milky solution. A mixture of 7-bromo-3-(2-fluorophenyl)-6-(2-methyl2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine (0.35 g, 0.866 mmol), tri-2-furylphosphine (0.08 g. 40 mol %) and tris(dibenzylideneacetone)dipalladium(0) (0.04 g, 5 mol %) in anhydrous DMF (2 ml) was stirred at 50° C. under nitrogen for 15 min followed by addition of the solution of organozinc reagent via syringe. After 2.5 h, the mixture was cooled, poured into water (100 ml) and extracted with dichloromethane (2×50 ml). The extracts were dried (Na2SO4), filtered and concentrated. Flash column chromatography on silica gel, eluting with 2% methanol-dichloromethane, gave a brown solid that was recrystallised from ethyl acetate-diethyl ether to give 7-(2,2-dimethylpropyl)-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine (0.199 g, 58%) as a beige powder; 1H NMR (360 MHz, CDCl3) δ0.96 (9H, s), 2.61 (2H, s), 3.83 (3H, s), 5.47 (2H, s), 7.28 (1H, dd, J=10 and 10 Hz), 7.36 (1H, dd, J=8 and 8 Hz), 7.56-7.62 (1H, m), 7.83 (1H, s), 7.86 (1H, dd, J=8 and 8 Hz), 7.90 (1H, s); MS (ES+) m/e 396 [MH]+. Anal. Found C, 59.66; H, 5.69; N. 24.41%. C20H22FN7O.0.4H2O requires C, 59.66; H, 5.71; N, 24.35%.

reactant | 1,2-Dibromoethane | 0.03 ml | BrCCBr | C2H4Br2
reactant | neopentyl iodide | 7.5 mmol, 1.0 ml | C(C(C)(C)C)I | C5H11I
reactant | 7-bromo-3-(2-fluorophenyl)-6-(2-methyl2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | 0.866 mmol, 0.35 g | BrC1=CC=2N(N=C1OCC=1N(N=CN1)C)C(=NN2)C2=C(C=CC=C2)F | C15H11BrFN7O
reactant | tri-2-furylphosphine | 0.08 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | zinc | 7.0 mmol, 0.45 g | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.04 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 100 ml | O | H2O
product | 7-(2,2-dimethylpropyl)-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | 0.199 g, 58% | CC(CC1=CC=2N(N=C1OCC=1N(N=CN1)C)C(=NN2)C2=C(C=CC=C2)F)(C)C | C20H22FN7O
